US05663042
THF Tetrahydrofuran
VROH--Copolymer of vinyl chloride and vinyl acetate (partially hydrolysed) (Union Carbide)

reactant | vinyl chloride | C(=C)Cl | C2H3Cl
reactant | vinyl acetate | C(C)(=O)OC=C | C4H6O2
product | THF Tetrahydrofuran | C1CCOC1.O1CCCC1 | 2C4H8O
